US08461339B2
1-Benzylpiperazine is reacted with 2-benzyloxyacetyl chloride in dichloromethane in the presence of triethylamine to give 2-benzyloxy-1-(4-benzyl-piperazin-1-yl)-ethanone which is then hydrogenated over a palladium on carbon catalyst in a methanol/hydrochloric acid mixture to remove the benzyl group and give the title compound.

reactant | 1-Benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 2-benzyloxyacetyl chloride | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-benzyloxy-1-(4-benzyl-piperazin-1-yl)-ethanone | C(C1=CC=CC=C1)OCC(=O)N1CCN(CC1)CC1=CC=CC=C1 | C20H24N2O2
